US07399759B2
4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridinecarbonitrile
1-Ethyl-3-(4-pyridyl)-2-imidazolidinone N-oxide (0.56 g, 2.7 mmol) was dissolved in nitroethane (20 ml), and trimethylsilyl cyanide (0.55 g, 5.5 mmol) and N,N-dimethylcarbamoyl chloride (0.44 g, 4.1 mmol) were added thereto. The mixture was stirred at room temperature for 20 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (5:1, v/v) were collected, concentrated and recrystallized from tetrahydrofuran-hexane to give the titled compound (0.17 g, 29%) as white crystals.

reactant | 1-Ethyl-3-(4-pyridyl)-2-imidazolidinone N-oxide | 2.7 mmol, 0.56 g | C(C)[N+]1(C(N(CC1)C1=CC=NC=C1)=O)[O-] | C10H13N3O2
reactant | trimethylsilyl cyanide | 5.5 mmol, 0.55 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 4.1 mmol, 0.44 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 20 ml | [N+](=O)([O-])CC | C2H5NO2
product | 4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridinecarbonitrile | 0.17 g, 29% | C(C)N1C(N(CC1)C1=CC(=NC=C1)C#N)=O | C11H12N4O
